US07776910B2
Trifluoroacetic acid (5 mL) was added to a solution of (S)-3-{4-[4-(tert-butyl-dimethyl-silanyloxy)-benzenesulfonyl]-phenyl}-pyrrolidine-1-carboxylic acid tert-butyl ester (342 mg, 0.661 mmol) in DCM (5 mL) under argon atmosphere. The mixture was stirred at room temperature for 75 minutes, then solvent was evaporated under reduced pressure. The crude material (482.9 mg) was dissolved in acetonitrile (5 mL) and to the resulting solution, under argon atmosphere, was added formaldehyde (37% in water, 0.264 mL, 3.292 mmol) followed by sodium cyanoborohydride (82.4 mg, 1.316 mmol). The reaction mixture was stirred at room temperature for 1.5 hours, then buffered to pH 12. The resulting mixture was extracted with DCM, and the combined organic extracts were dried over Na2SO4, filtered, and evaporated under reduced pressure. The resulting crude material was purified via flash chromatography (DCM/MeOH/NH4OH) to give 248.2 mg (87% yield) of (S)-3-{4-[4-(tert-butyl-dimethyl-silanyloxy)-benzenesulfonyl]-phenyl}-1-methyl-pyrrolidine as a colorless oil which solidified upon standing.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-3-{4-[4-(tert-butyl-dimethyl-silanyloxy)-benzenesulfonyl]-phenyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.661 mmol, 342 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C27H39NO5SSi
reactant | formaldehyde | 3.292 mmol, 0.264 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 1.316 mmol, 82.4 mg | C(#N)[BH3-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-{4-[4-(tert-butyl-dimethyl-silanyloxy)-benzenesulfonyl]-phenyl}-1-methyl-pyrrolidine | 248.2 mg, 87% yield | C(C)(C)(C)[Si](OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)[C@H]1CN(CC1)C)(C)C | C23H33NO3SSi
